US08377957B2
Tetramethyl orthocarbonate (1.24 mL, 9.3 mmol) was added to a suspension of 2-chloroquinoline-3,4-diamine, see U.S. Pat. No. 5,756,747 (Gerster) Example 30, (1.5 g, 7.75 mmol) in acetic acid (8 mL), and the reaction was stirred overnight at room temperature. An analysis by LC/MS indicated the reaction was incomplete, and additional tetramethyl orthocarbonate (0.5 equivalent) was added. The reaction was stirred overnight at room temperature and diluted with water (100 mL). The mixture was adjusted to pH 7 with the addition of 2 N aqueous sodium hydroxide. Dichloromethane (100 mL) was added to the mixture, and a precipitate formed. The precipitate was isolated by filtration to provide 1.13 g of 4-chloro-2-methoxy-1H-imidazo[4,5-c]quinoline as a gray solid.

reactant | Tetramethyl orthocarbonate | 9.3 mmol, 1.24 mL | C(OC)(OC)(OC)OC | C5H12O4
reactant | 2-chloroquinoline-3,4-diamine | ClC1=NC2=CC=CC=C2C(=C1N)N | C9H8ClN3
reactant | tetramethyl orthocarbonate | 0.5 equivalent | C(OC)(OC)(OC)OC | C5H12O4
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 4-chloro-2-methoxy-1H-imidazo[4,5-c]quinoline | 1.13 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2)OC | C11H8ClN3O
